US05077301
2. Synthesis of 4-(Hydroxydiphenylmethyl)-1-piperidyl-(3-methoxyphenyl) methane hydrochloride
A mixture of 8.0 g (30 mmol) of α,α-diphenyl-4-piperidinomethanol, 2.35 g (15 mmol) of 3-methoxybenzyl chloride, 0.5 g of triethylamine and 30 ml of THF is stirred under reflux for 1 hour, during which a colorless precipitate separates out. After cooling to 20° C., the precipitate is filtered off, and the filtrate is concentrated. For working up, the residue is taken up in 5 ml of methylene chloride, and ethereal HCl solution is added until no further precipitation occurs. The mixture is diluted with 30 ml of methylene chloride, the precipitate is filtered, and the filtrate is concentrated. Drying of the oily residue at 40° C. in vacuo results in 6.5 g of final product. Decomposition point about 80° C. Characteristic IR bands: 3360, 1590, 1480, 1438, 1256, 690 cm.

reactant | α,α-diphenyl-4-piperidinomethanol | 30 mmol, 8.0 g | C1CNCCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O | C18H21NO
reactant | 3-methoxybenzyl chloride | 15 mmol, 2.35 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(Hydroxydiphenylmethyl)-1-piperidyl-(3-methoxyphenyl) methane hydrochloride | 6.5 g | Cl.OC(C1CCN(CC1)CC1=CC(=CC=C1)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H29NO2.ClH/c1-29-25-14-8-9-21(19-25)20-27-17-15-24(16-18-27)26(28,22-10-4-2-5-11-22)23-12-6-3-7-13-23;/h2-14,19,24,28H,15-18,20H2,1H3;1H
